US04264497
A mixture of 32 g of o-aminothiophenol, 69.6 g of ethyl p-methoxybenzalmalonate and 1.6 g of triethylamine hydrochloride was heated at about 180° C. until no further ethanol was distilled out (for about 4 hours). The resulting mixture was then worked up in the same manner as described in Reference Example 2 (a) and the crystals thus obtained were recrystallized from chloroform-petroleum ether to obtain 25 g of 2,3-dihydro-3-ethoxycarbonyl-2-(p-methoxyphenyl)-1,5-benzothiazepin-4(5H)-one as colorless needles having a melting point of 192° C.

reactant | o-aminothiophenol | 32 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | ethyl p-methoxybenzalmalonate | 69.6 g | COC1=CC=C(C=C(C(=O)OCC)C(=O)[O-])C=C1
reactant | triethylamine hydrochloride | 1.6 g | Cl.C(C)N(CC)CC
solvent | ethanol | C(C)O | C2H6O
product | 2,3-dihydro-3-ethoxycarbonyl-2-(p-methoxyphenyl)-1,5-benzothiazepin-4(5H)-one | 25 g | C(C)OC(=O)C1C(SC2=C(NC1=O)C=CC=C2)C2=CC=C(C=C2)OC | C19H19NO4S
